US07151111B2
In an analogous manner to that described in Example 13 a), the alkylation of the (RS)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester [Example 2 b)] with 2-fluorobenzyl-bromide using cesium carbonate as the base at RT yields (RS)-1-[4-(2-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester as a light yellow solid (yield 82% of theory).

reactant | (RS)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)O | C12H13NO4
reactant | 2-fluorobenzyl-bromide | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | (RS)-1-[4-(2-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | yield 82% | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=C(C=CC=C1)F | C19H18FNO4
